US07199135B2
N-{3-[1-(3-{[bis(2-chlorophenyl)(hydroxy)acetyl]amino}propyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide:
Example 158 was prepared from bis(2-chlorophenyl)(hydroxy)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 12: 1H NMR (400 MHz, CDCl3) δ 8.33 (s, 1 H), 7.43–7.18 (m, 11 H), 7.05 (d, 1 H, J=8.0 Hz), 5.03 (s, 1 H), 3.60–3.49 (m, 2 H), 3.03–2.91 (m, 2 H), 2.71–2.54 (m, 1 H), 2.54–2.37 (m, 3 H), 2.25 (s, 3 H), 2.08–1.91 (m, 2 H), 1.84–1.63 (m, 4 H), 1.63–1.50 (m, 2 H), 1.17 (d, 6 H, J=6.8 Hz); ESMS m/e: 596.3 (M+H)+.

reactant | bis(2-chlorophenyl)(hydroxy)acetic acid | ClC1=C(C=CC=C1)C(C(=O)O)(O)C1=C(C=CC=C1)Cl | C14H10Cl2O3
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | N-{3-[1-(3-{[bis(2-chlorophenyl)(hydroxy)acetyl]amino}propyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | ClC1=C(C=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O)(O)C1=C(C=CC=C1)Cl | C33H39Cl2N3O3
